US05580986
2. 1-(5-Difluoromethoxy-1-methyl-3-pyrazolyl)-5-methyl-4-pyrazolecarboxamide
0.98 g (3.38 mmol) 1-(5-Difluoromethoxy-1-methyl-3-pyrazolyl)-5-methyl-4-pyrazolecarbonyl chloride was dissolved in 20 ml tetrahydrofuran and 50 ml aqueous ammonia (33%) was added with stirring. After stirring for 3 hours at room temperature, the mixture was concentrated to half and acidified with dilute hydrochloric acid. The precipitate was suction filtered off, washed with a small amount of water and dried.

reactant | 1-(5-Difluoromethoxy-1-methyl-3-pyrazolyl)-5-methyl-4-pyrazolecarbonyl chloride | 3.38 mmol, 0.98 g | FC(OC1=CC(=NN1C)N1N=CC(=C1C)C(=O)Cl)F | C10H9ClF2N4O2
reactant | ammonia | 50 ml | N | H3N
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 1-(5-Difluoromethoxy-1-methyl-3-pyrazolyl)-5-methyl-4-pyrazolecarboxamide | FC(OC1=CC(=NN1C)N1N=CC(=C1C)C(=O)N)F | C10H11F2N5O2
